US05670503
To a suspension of 7-(4-fluorophenyl)-8-(2-fluoropyridin-4-yl)pyrazolo[5,1-c][1,2,4]triazine (350 mg) in methanol (2 ml) was added conc. sulfuric acid (0.32 ml) dropwise. The mixture was refluxed for 1 hour, cooled and poured into cold water. The aqueous solution was neutralized with an aqueous saturated sodium bicarbonate solution and the separated oil was extracted with dichloromethane. The extract was washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel and the obtained oil was crystallized from methanol to give 7-(4-fluorophenyl)-8-(2-methoxypyridin-4-yl)pyrazolo[5,1-c][1,2,4]triazine (220 mg).

reactant | 7-(4-fluorophenyl)-8-(2-fluoropyridin-4-yl)pyrazolo[5,1-c][1,2,4]triazine | 350 mg | FC1=CC=C(C=C1)C1=NN2C(N=NC=C2)=C1C1=CC(=NC=C1)F | C16H9F2N5
reactant | sulfuric acid | 0.32 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 7-(4-fluorophenyl)-8-(2-methoxypyridin-4-yl)pyrazolo[5,1-c][1,2,4]triazine | 220 mg | FC1=CC=C(C=C1)C1=NN2C(N=NC=C2)=C1C1=CC(=NC=C1)OC | C17H12FN5O
